.suckt  2stage_pmos_input ibias in1 in2 out source_nmos source_pmos
M1 net_0 in1 net_1 net_1 pmos W=76e-6 L=1e-6
M2 outfirststage in2 net_1 net_1 pmos W=76e-6 L=1e-6
M3 net_2 net_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M4 net_0 net_0 net_2 net_2 nmos W=1e-6 L=1e-6
M5 net_3 net_2 source_nmos source_nmos nmos W=1e-6 L=1e-6
M6 outfirststage net_0 net_3 net_3 nmos W=1e-6 L=1e-6
M7 net_4 bias_p_3 source_pmos source_pmos pmos W=1e-6 L=2e-6
M8 net_1 bias_p_2 net_4 net_4 pmos W=2e-6 L=1e-6
M9 net_7 outfirststage source_pmos source_pmos pmos W=1e-6 L=1e-6
M10 out bias_p_2 net_7 net_7 pmos W=41e-6 L=1e-6
M11 net_9 net_9 source_nmos source_nmos nmos W=2e-6 L=1e-6
M12 out ibias net_9 net_9 nmos W=2e-6 L=1e-6
M13 ibias ibias bias_n_1m bias_n_1m nmos W=2e-6 L=1e-6
M14 bias_n_1m net_9 source_nmos source_nmos nmos W=2e-6 L=1e-6
M15 bias_p_2 bias_p_2 source_pmos source_pmos pmos W=1e-6 L=23e-6
M16 bias_p_3 bias_p_3 source_pmos source_pmos pmos W=1e-6 L=2e-6
M17 bias_p_3 net_9 source_nmos source_nmos nmos W=2e-6 L=1e-6
M18 bias_p_2 net_9 source_nmos source_nmos nmos W=2e-6 L=1e-6
Cap_load_1 out source_nmos
Cap_compensation_1 outfirststage out
.end 2stage_pmos_input
